### PR TITLE
feat(Data/Nat/Factors): added lemmas including `primeFactorsList_length_ne_zero`

### PR DESCRIPTION
**Pull request by qawbecrdtey**
---

Added lemmas `primeFactorsList_length_ne_zero`, `primeFactorsList_prime_iff`, and `primeFactorsList_length_eq_one`.

```lean
theorem primeFactorsList_length_ne_zero (n : ℕ) : n.primeFactorsList.length ≠ 0 ↔ 2 ≤ n

theorem primeFactorsList_prime_iff {p : ℕ} : p.primeFactorsList = [p] ↔ p.Prime

@[simp]
theorem primeFactorsList_length_eq_one (n : ℕ) : n.primeFactorsList.length = 1 ↔ n.Prime
```

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factors.lean [hunk 1]
```diff
@@ -123,6 +128,21 @@ theorem primeFactorsList_eq_nil (n : ℕ) : n.primeFactorsList = [] ↔ n = 0 
     · exact primeFactorsList_zero
     · exact primeFactorsList_one
 
+theorem primeFactorsList_length_ne_zero (n : ℕ) : n.primeFactorsList.length ≠ 0 ↔ 2 ≤ n := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factors.lean]: I think `length` should be a prefix in the name?

File: Mathlib/Data/Nat/Factors.lean [hunk 2]
```diff
@@ -123,6 +128,21 @@ theorem primeFactorsList_eq_nil (n : ℕ) : n.primeFactorsList = [] ↔ n = 0 
...
+
+@[simp]
+theorem primeFactorsList_length_eq_one (n : ℕ) : n.primeFactorsList.length = 1 ↔ n.Prime := by
+  refine ⟨fun h ↦ ?_, fun h ↦ primeFactorsList_prime h ▸ rfl⟩
+  rcases List.length_eq_one_iff.mp h with ⟨p, hp⟩
+  have : p = n := by
+    have : 2 ≤ n := n.primeFactorsList_length_ne_zero.mp (by simp +decide only [h])
+    have h₁ := n.prod_primeFactorsList (by omega)
+    simp only [hp, List.prod_singleton] at h₁
+    exact h₁
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factors.lean]: Perhaps combine with `simpa`

File: Mathlib/Data/Nat/Factors.lean [hunk 3]
```diff
@@ -83,6 +83,11 @@ theorem primeFactorsList_prime {p : ℕ} (hp : Nat.Prime p) : p.primeFactorsList
   have : Nat.minFac p = p := (Nat.prime_def_minFac.mp hp).2
   simp only [this, primeFactorsList, Nat.div_self (Nat.Prime.pos hp)]
 
+theorem primeFactorsList_prime_iff {p : ℕ} : p.primeFactorsList = [p] ↔ p.Prime := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factors.lean:86]: I'm not entirely sure about this name either; maybe `primeFactorsList_eq_singleton_iff` or `primeFactorsList_eq_singleton_iff_prime`… Though those are getting long. (Probably `primeFactorsList_prime` should be `primeFactorsList_of_prime`)

Comment (qawbecrdtey) [reply Mathlib/Data/Nat/Factors.lean:86]: I followed the convention of several other theorems nearby, if I have done right. I'll leave it as is for now.
